US09216980B2
Step 2: 5-(4-Piperidin-1-ylmethyl-phenyl)-2-fluoro-[3,4]bipyridinyl-3′-ylamine
A degassed mixture of 5-bromo-2-fluoro-[3,4]bipyridinyl-3′-ylamine (861 mg, 3.21 mmol), 4-piperidin-1-ylmethyl-phenyl boronic acid (816 mg, 3.72 mmol) and bis(triphenylphosphine)palladium(II) chloride (169 mg, 0.241 mmol) in acetonitrile (14 mL) and 1N aqueous potassium fluoride solution (8.0 mL) was heated under microwave irradiation at 100° C. for 25 minutes. The cooled reaction mixture was diluted with water and 20% methanol in DCM, the layers separated, and the aqueous phase extracted into 20% methanol in DCM. The combined organic phase was concentrated in vacuo, and the resultant residue dissolved in DCM/methanol, absorbed onto celite, and purified by flash chromatography (silica, 100 g column, Biotage, 0-20% methanol in DCM) to afford the title compound as a dark orange foam (753 mg, 65%). 1H NMR (DMSO-D6, 400 MHz): 8.58 (s, 1H), 8.20 (d, J=7.1 Hz, 1H), 8.13 (s, 1H), 7.84 (d, J=4.8 Hz, 1H), 7.74 (m, 2H), 7.43 (m, 2H), 7.07 (d, J=4.9 Hz, 1H), 5.31 (s, 2H), 3.29 (s, 2H), 2.35 (m, 4H), 1.51 (m, 4H), 1.40 (m, 2H). LCMS (Method B): RT=1.27 min, M+H+=363.

reactant | 5-bromo-2-fluoro-[3,4]bipyridinyl-3′-ylamine | 3.21 mmol, 861 mg | BrC=1C=C(C(=NC1)F)C1=C(C=NC=C1)N | C10H7BrFN3
reactant | 4-piperidin-1-ylmethyl-phenyl boronic acid | 3.72 mmol, 816 mg | N1(CCCCC1)CC1=CC=C(C=C1)B(O)O | C12H18BNO2
solvent | acetonitrile | 14 mL | C(C)#N | C2H3N
solvent | potassium fluoride | 1N, 8.0 mL | [F-].[K+]
solvent | water | O | H2O
solvent | methanol | CO | CH4O
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.241 mmol, 169 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 5-(4-Piperidin-1-ylmethyl-phenyl)-2-fluoro-[3,4]bipyridinyl-3′-ylamine | 753 mg, 65% | N1(CCCCC1)CC1=CC=C(C=C1)C=1C=C(C(=NC1)F)C1=C(C=NC=C1)N | C22H23FN4
